US04650900
Preparation of 3-cyano-3,3-diphenyl-2-ethyl-N,N-dimethyl-propanamide
A solution of 3-cyano-3,3-diphenyl-2-ethylpropionyl chloride (0.1 mol prepared from 0.1 mol of the acid as described above) in 100 ml of methylen chloride was added dropwise while stirring to a mixture of 65 ml of 33% aqueous dimethylamine (ca. 0.5 mol) and 100 g of crushed ice. The mixture was stirred for 1 hour at room temperature, whereupon the organic phase was separated and washed with dilute hydrochloric acid. After drying over magnesium sulphate, filtration and evaporation, the residue was crystallized from a mixture of methylene chloride and ether. Yield: 28 g (88%) of the amide as a white crystalline substance melting at 170°-172° C.

reactant | 3-cyano-3,3-diphenyl-2-ethylpropionyl chloride | C(#N)C(C(C(=O)Cl)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H16ClNO
reactant | dimethylamine | ca. 0.5 mol, 65 ml | CNC | C2H7N
solvent | methylen chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-cyano-3,3-diphenyl-2-ethyl-N,N-dimethyl-propanamide | C(#N)C(C(C(=O)N(C)C)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O
